US05292732
1,1'-Carbonyl-diimidazole (48.8 g) was added portionwise within 30 minutes under argon and while stirring to a suspension of 50.0 g of 3,4-methylenedioxy-benzoic acid in 500 ml of methylene chloride. The resulting clear solution was stirred at room temperature for 2 hours and added dropwise within 30 minutes to 42 ml of triethylamine. Thereafter, 29.4 g of N,O-dimethylhydroxylamine hydrochloride were added and the mixture was stirred at room temperature overnight. After the addition of 800 ml of 30% citric acid solution the mixture was extracted twice with 300 ml of methylene chloride each time. The organic phases were washed in succession with 300 ml of 30% citric acid solution, 500 ml of saturated sodium hydrogen carbonate solution and 300 ml of saturated sodium hydrogen carbonate solution. The organic phases were combined, dried with MgSO4 and freed from solvent. 60.9 g (97%) of N-methoxy-N-methyl-1,3-benzodioxol-5-carboxamide were isolated as a pale yellow oil.

reactant | 1,1'-Carbonyl-diimidazole | 48.8 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3,4-methylenedioxy-benzoic acid | 50.0 g | C1OC=2C=C(C(=O)O)C=CC2O1 | C8H6O4
reactant | N,O-dimethylhydroxylamine hydrochloride | 29.4 g | Cl.CNOC
reactant | citric acid | 800 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-methoxy-N-methyl-1,3-benzodioxol-5-carboxamide | 60.9 g, 97% | CON(C(=O)C1=CC2=C(OCO2)C=C1)C | C10H11NO4
